US05563141
A solution of 4-dimethylaminopyridine-3-carboxaldehyde (J. Het. Chem, 25, 81) (1.5 g) in ethanol (25 ml) was treated with sodium borohydride (200 mg) and the mixture was stirred for 4 hours. Concentrated hydrochloric acid (1 ml) was added and the mixture was concentrated. The residue was treated with saturated aqueous sodium chloride (40m) and concentrated aqueous sodium hydroxide (2 ml) and the mixture was extracted with dichloromethane (4×20 ml). The combined organic extracts were washed with saturated aqueous sodium chloride (40 ml), dried (PS paper) and concentrated. The residue was dissolved in methanol, treated with decolourising charcoal, filtered and concentrated to give 4-dimethylaminopyridine-3-methanol (1.1 g) as a pale yellow oil. NMR: (d6DMSO): δ2.9 (6H,s); 4.5(2H,s); 4.0-4.8(1H, br.s); 6.7(1H,d); 8.15(1H,d); 8.3(1H,s); m/e 153 (M+H)+ ; 135(M+H-H2O)+.

reactant | 4-dimethylaminopyridine-3-carboxaldehyde | 1.5 g | CN(C1=C(C=NC=C1)C=O)C | C8H10N2O
reactant | sodium borohydride | 200 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-dimethylaminopyridine-3-methanol | 1.1 g | CN(C1=C(C=NC=C1)CO)C | C8H12N2O
